US05420115
2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-6-methylamino-9H-purine
2-Amino-6-methylaminopurine (J. A. Montgomery and L. B. Holum, J.A.C.S. 80:404, 1958; 0.51 g; 3.1 mmoles) and 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil (0.52 g, 2.1 mmoles) which may be prepared according to J. F. Codington et al. (J. Org. Chem. 29:558, 1964) were suspended in 50 ml of 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. Thymidine phosphorylase (4,000 I.U.) and purine nucleoside phosphorylase (14,000 I.U.) (T. A. Krenitsky et al., Biochemistry 20:3615, 1981 and U.S. Pat. No. 4,381,344) were added and the suspension stirred at 37° C. On day 6, the reaction was diluted to 250 ml with 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide and 0.49 g of 2-amino-6-methylaminopurine and 4,000 I.U. thymidine phosphorylase and 14,000 I.U. purine nucleoside phosphorylase were added. On day 14, the reaction was evaporated. The residue was suspended in methanol/water and the suspension filtered. The filtrate was evaporated. The residue was dissolved in water and applied to a 2.5×13 cm column of anion exchange resin (Bio-Rad AG1X2-hydroxide form). After washing the column with water, the product was eluted with methanol/water (1/1). After the solvent was removed under vacuum, the residue was dissolved in water and filtered through a 0.22 μm-pore membrane filter. Lyophilization of the filtrate yielded title compound that anlyzed as a 0.5 hydrate.

reactant | 2-Amino-6-methylaminopurine | 3.1 mmoles, 0.51 g | NC1=NC(=C2NC=NC2=N1)NC | C6H8N6
reactant | 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil | 2.1 mmoles, 0.52 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | 2-amino-6-methylaminopurine | 0.49 g | NC1=NC(=C2NC=NC2=N1)NC | C6H8N6
solvent | potassium phosphate | 5 mM, 50 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium phosphate | 5 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-6-methylamino-9H-purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@H](O)[C@H](O1)CO)F)NC | C11H15FN6O3
